US04076712
a. Pyrazolo [1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one
15.7 g. of 2-chloropyridine-3-carboxylic acid and 16.6 g. of 5-aminopyrazole are heated carefully to about 180°. At this point, the reaction starts and the temperature rises to about 230°-240°. The mixture is allowed to cool to room temperature and is then treated with methanol. The undissolved pyrazolo[1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one is filtered off and recrystallized from dimethylformamide, yield: 10.5 g. (56%); m.p. >300°.

reactant | 2-chloropyridine-3-carboxylic acid | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | 5-aminopyrazole | NC1=CC=NN1 | C3H5N3
solvent | methanol | CO | CH4O
product | Pyrazolo [1,5-a]pyrido[2,3-d]pyrimidin-9(4H)-one | N1=CC=C2N1C(C1=C(N2)N=CC=C1)=O | C9H6N4O
